US08431581B2
1-[2-(3,5-Dimethyl-piperidin-1-yl)-2-oxo-ethyl]-6-hydroxy-3-methylsulfanylmethyl-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid 2-dimethylsulfamoyl-4-fluoro-benzylamide
Following the same procedure for Example 187 but using 1-[2-(3,5-dimethyl-piperidin-1-yl)-2-oxo-ethyl]-6-hydroxy-3-methylsulfanylmethyl-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester Example 191 and 2-aminomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide, the title product was obtained in 84.7% yield as a yellowish amorphous solid.

reactant | 1-[2-(3,5-dimethyl-piperidin-1-yl)-2-oxo-ethyl]-6-hydroxy-3-methylsulfanylmethyl-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester | COC(=O)C=1N=C2N(C(C1O)=O)C(=CN2CC(=O)N2CC(CC(C2)C)C)CSC | C19H26N4O5S
reactant | 2-aminomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide | NCC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C9H13FN2O2S
product | 1-[2-(3,5-Dimethyl-piperidin-1-yl)-2-oxo-ethyl]-6-hydroxy-3-methylsulfanylmethyl-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid 2-dimethylsulfamoyl-4-fluoro-benzylamide | 84.7% yield | CN(S(=O)(=O)C1=C(CNC(=O)C=2N=C3N(C(C2O)=O)C(=CN3CC(=O)N3CC(CC(C3)C)C)CSC)C=CC(=C1)F)C | C27H35FN6O6S2
